US09302989B2
N-(3-{[1-(pyridin-3-ylcarbonyl)piperidin-4-yl]oxy}propyl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting nicotinoyl chloride for acetyl chloride and N-(3-(piperidin-4-yloxy)propyl)isoindoline-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.51-8.70 (m, 2H) 7.75-7.88 (m, 1H) 7.46 (dd, J=7.73, 4.96 Hz, 1H) 7.20-7.38 (m, 3H) 6.28 (t, J=5.35 Hz, 1H) 4.57 (s, 4H) 3.83-4.01 (m, 1H) 3.40-3.63 (m, 6H) 3.16 (q, J=6.35 Hz, 2H) 1.35-1.95 (m, 7H); MS (ESI(+)) m/e 409 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(3-(piperidin-4-yloxy)propyl)isoindoline-2-carboxamide | N1CCC(CC1)OCCCNC(=O)N1CC2=CC=CC=C2C1 | C17H25N3O2
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-(3-{[1-(pyridin-3-ylcarbonyl)piperidin-4-yl]oxy}propyl)-1,3-dihydro-2H-isoindole-2-carboxamide | N1=CC(=CC=C1)C(=O)N1CCC(CC1)OCCCNC(=O)N1CC2=CC=CC=C2C1 | C23H28N4O3
